US06245742B1
Preparation of BocTyr(PO3Et2)OH
The title compound was prepared by reaction of crude BocTyr(PO3Et2)OBzl (1 mmol) and ammonium formate (4 mmol) with 10% Pd on charcoal for 20 min. at 50° C. in methanol/acetic acid mixture. After the filtration of the catalyst the solvent was concentrated in vacuo and the residue was dissolved in EtOAc and washed several times with a solution of satured NaCl. The organic phase was dried (Na2SO4) and concentrated, giving an oil 270 mg (70% yield), that was used without purification for the next step. FAB mass spectroscopy: m/z 409 [MNa]+. H1NMR (200 mhz, DMSO-d6) d (ppm)=7.3-7 (dd, 4H, aromatics), 4.1 (m, 4H, P—O—CH2—CH3), 3-2.7 (m, 2H, CH—CH2—F), 1.4-1.2 (m, 15H, CH3—CH2+tBu).

reactant | BocTyr(PO3Et2)OBzl | 1 mmol | N([C@@H](CC1=CC=C(C=C1)OP(=O)(OCC)OCC)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C25H34NO8P
reactant | ammonium formate | 4 mmol | C(=O)[O-].[NH4+]
solvent | methanol acetic acid | CO.C(C)(=O)O
catalyst | Pd on charcoal | [Pd] | Pd
product | BocTyr(PO3Et2)OH | N([C@@H](CC1=CC=C(C=C1)OP(=O)(OCC)OCC)C(=O)O)C(=O)OC(C)(C)C | C18H28NO8P
